US05721245
991 mg of trifluoroacetic anhydride were added dropwise to a suspension of 1.0 g of 6,7,8,9-tetrahydropyrido[1,2-a]indole-8-carboxamide in 15 ml of dioxane at 10° C. The mixture was partitioned between dichloromethane and water and the organic phase was dried. The solvent was removed under reduced pressure to give an oil which was subjected to chromatography on silica gel with ethyl acetate/petroleum ether (1:1). There were obtained 740 mg of 6,7,8,9-tetrahydropyrido[1,2-a]indole-8-carbonitrile of melting point 116°-118° C.

reactant | trifluoroacetic anhydride | 991 mg | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | 6,7,8,9-tetrahydropyrido[1,2-a]indole-8-carboxamide | 1.0 g | C1=C2C=C3N(C2=CC=C1)CCC(C3)C(=O)N | C13H14N2O
solvent | dioxane | 15 ml | O1CCOCC1 | C4H8O2
product | 6,7,8,9-tetrahydropyrido[1,2-a]indole-8-carbonitrile | 740 mg | C1=C2C=C3N(C2=CC=C1)CCC(C3)C#N | C13H12N2
